US06030946
(4-morpholinecarbonylphenylalanyl)-2-phenethyl-1-phenylsulfonyl ethylenediamine (Mu-Phe-retro-(D,L)-Hph-SO2Ph)
To a solution of 4-morpholinecarbonylphenylalanine (Mu-PheOH, 0.14 g, 0.48 mmol, prepared according to the method described in Esser, R. et.al., Arthritis & Rheumatism (1994), 37, 236) in THF (10 mL)) at -10° C. were added 4-methylmorpholine (0.11 mL, 0.96 mmol), followed by isobutyl chloroformate (64 μL, 0.48 mmol). After 5 minute activation, 2-phenethyl-1-phenylsulfonylethylenediamine hydrochloride (0.15 g, 0.44 mmol, prepared by conversion of the N-phenylsulfonylhomophenylalanine to the amide via CDl/NH3 /THF reaction, then by reduction of the carbonyl amide to its corresponding amine with lithium aluminium hydride, followed by treatment with HCl in dioxane) was added. After 1 hour, the reaction mixture was diluted with CH2Cl2 (50 mL) and washed with 1 M HCl (50 mL) followed by saturated aqueous NaHCO3 (50 mL), dried over MgSO4, filtered, and the solvent was removed under reduced pressure. The residue was diluted with CH2Cl2 (5 mL) and precipated from hexane (200 mL), filtered, and dried in vacuo yielding 0.22 g (89%) of the desired product.

reactant | 4-morpholinecarbonylphenylalanine | N1(CCOCC1)C(=O)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C14H18N2O4
reactant | PheOH | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | 4-methylmorpholine | 0.96 mmol, 0.11 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.48 mmol, 64 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-phenethyl-1-phenylsulfonylethylenediamine hydrochloride | Cl.C(CC1=CC=CC=C1)C(C(N)S(=O)(=O)C1=CC=CC=C1)N
reactant | N-phenylsulfonylhomophenylalanine | C1(=CC=CC=C1)S(=O)(=O)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C16H17NO4S
reactant | NH3 THF | N.C1CCOC1
reactant | carbonyl amide | C(=O)=[N-]
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (4-morpholinecarbonylphenylalanyl)-2-phenethyl-1-phenylsulfonyl ethylenediamine | 0.22 g, 89% | N1(CCOCC1)C(=O)C1=CC=C(C[C@H](N)C(=O)NC(C(N)S(=O)(=O)C2=CC=CC=C2)CCC2=CC=CC=C2)C=C1 | C30H36N4O5S
